* /home/fossee/Downloads/eSim-master/Examples/4_bit_JK_ff/4_bit_JK_ff.cir

* EESchema Netlist Version 1.1 (Spice format) creation date: Wed Aug 19 15:36:59 2015

* To exclude a component from the Spice Netlist add [Spice_Netlist_Enabled] user FIELD set to: N
* To reorder the component spice node sequence add [Spice_Node_Sequence] user FIELD and define sequence: 2,1,0

* Sheet Name: /
U3  Net-_U1-Pad4_ Net-_U1-Pad6_ Net-_U1-Pad5_ Net-_U2-Pad8_ Net-_U3-Pad5_ Net-_U3-Pad6_ Net-_U3-Pad7_ d_jkff		
v1  Net-_U1-Pad1_ GND dc		
v3  Net-_U1-Pad3_ GND dc		
v4  Net-_U4-Pad2_ GND 0		
v2  IN GND pulse		
U5  Net-_U3-Pad7_ Net-_U3-Pad7_ Net-_U1-Pad5_ Net-_U2-Pad7_ Net-_U4-Pad6_ Net-_U5-Pad6_ Net-_U5-Pad7_ d_jkff		
U7  Net-_U6-Pad3_ Net-_U6-Pad3_ Net-_U1-Pad5_ Net-_U2-Pad6_ Net-_U4-Pad7_ Net-_U7-Pad6_ Net-_U7-Pad7_ d_jkff		
U10  Net-_U10-Pad1_ Net-_U10-Pad1_ Net-_U1-Pad5_ Net-_U10-Pad4_ Net-_U10-Pad5_ Net-_U10-Pad6_ Net-_U10-Pad7_ d_jkff		
U6  Net-_U5-Pad7_ Net-_U3-Pad7_ Net-_U6-Pad3_ d_and		
U8  Net-_U7-Pad7_ Net-_U6-Pad3_ Net-_U10-Pad1_ d_and		
U4  Net-_U4-Pad1_ Net-_U4-Pad2_ Net-_U4-Pad3_ Net-_U4-Pad4_ Net-_U3-Pad5_ Net-_U4-Pad6_ Net-_U4-Pad7_ Net-_U10-Pad5_ adc_bridge_4		
v10  Net-_U4-Pad3_ GND 0		
v11  Net-_U4-Pad4_ GND 0		
v9  Net-_U4-Pad1_ GND 0		
v8  Net-_U2-Pad2_ GND 0		
U2  Net-_U2-Pad1_ Net-_U2-Pad2_ Net-_U2-Pad3_ Net-_U2-Pad4_ Net-_U10-Pad4_ Net-_U2-Pad6_ Net-_U2-Pad7_ Net-_U2-Pad8_ adc_bridge_4		
v6  Net-_U2-Pad3_ GND 0		
v7  Net-_U2-Pad4_ GND 0		
v5  Net-_U2-Pad1_ GND 0		
U1  Net-_U1-Pad1_ IN Net-_U1-Pad3_ Net-_U1-Pad4_ Net-_U1-Pad5_ Net-_U1-Pad6_ adc_bridge_3		
U9  Net-_U3-Pad6_ Net-_U5-Pad6_ Net-_U7-Pad6_ Net-_U10-Pad6_ D1 D2 D3 D4 dac_bridge_4		
R1  D1 GND 1k		
R2  D2 GND 1k		
R3  D3 GND 1k		
R4  D4 GND 1k		
U11  Net-_U10-Pad7_ GND dac_bridge_1		

.end
